US04670553
(S)-3-[[(Phenylmethoxy)carbonyl]amino]-2azetidinone (2 g) was suspended in 200 ml of dry tetrahydrofuran and cooled to -70° C. Chlorosulfonylisocyanate (1.4 g) dissolved in 7 ml of dry tetrahydrofuran was added with stirring. The temperature was allowed to rise to 0° C. and this temperature was maintained for 10 minutes. Afterwards it was cooled to -40° C., 1.2 g of triethylamine was dropped in and 2.9 g of 1-[2-[(t-butoxycarbonyl)amino]ethyl]-3-carbamoyl-2-oxoimidazolidine was added. This mixture was stirred at room temperature for 14 hours. Following the work-up procedure described in example 34A yielded 5.4 g of (S)-[1-[[[[[[3-[2-(t-butoxycarbonylamino)ethyl]-2-oxo-1-imidazolidinyl]carbonyl]amino]sulfonyl]amino]carbonyl]-2-oxo-3azetidinyl]carbamic acid, phenylmethyl ester, potassium salt.

reactant | (S)-3-[[(Phenylmethoxy)carbonyl]amino]-2azetidinone | 2 g | C1(=CC=CC=C1)COC(=O)N[C@@H]1C(NC1)=O | C11H12N2O3
reactant | Chlorosulfonylisocyanate | 1.4 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 1-[2-[(t-butoxycarbonyl)amino]ethyl]-3-carbamoyl-2-oxoimidazolidine | 2.9 g | C(C)(C)(C)OC(=O)NCCN1C(N(CC1)C(N)=O)=O | C11H20N4O4
reactant | potassium | [K] | K
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 1.2 g | C(C)N(CC)CC | C6H15N
product | (S)-[1-[[[[[[3-[2-(t-butoxycarbonylamino)ethyl]-2-oxo-1-imidazolidinyl]carbonyl]amino]sulfonyl]amino]carbonyl]-2-oxo-3azetidinyl]carbamic acid, phenylmethyl ester | 5.4 g | C(C)(C)(C)OC(=O)NCCN1C(N(CC1)C(=O)NS(=O)(=O)NC(=O)N1C([C@H](C1)NC(OCC1=CC=CC=C1)=O)=O)=O | C23H31N7O10S
